US08431593B2
L. 2-(2-HYDROXY-ETHYL)-IMIDAZO[1,2-A]PYRIDINE-5-CARBOXYLIC ACID (ADAMANTAN-1-YLMETHYL)-AMIDE
To a solution of {5-[(adamantan-1-ylmethyl)-carbamoyl]-imidazo[1,2-a]pyridin-2-yl}-acetic acid ethyl ester (65 mg, 0.16 mmol) in THF (5 mL) at RT, is added portion-wise LiBH4 (10 mg, 0.46 mmol). The resulting mixture is stirred at RT for 16 h. The reaction is quenched by the slow addition of water, followed by the addition of EtOAc. The organic layer is separated, and the aqueous layer is back extracted with EtOAc. The combined organic layers are washed with water and brine, dried over sodium sulfate, and concentrated. Purification of the residue by PTLC (10% MeOH in DCM) the title compound.

reactant | {5-[(adamantan-1-ylmethyl)-carbamoyl]-imidazo[1,2-a]pyridin-2-yl}-acetic acid ethyl ester | 0.16 mmol, 65 mg | C(C)OC(CC=1N=C2N(C(=CC=C2)C(NCC23CC4CC(CC(C2)C4)C3)=O)C1)=O | C23H29N3O3
reactant | LiBH4 | 0.46 mmol, 10 mg | [Li+].[BH4-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(2-HYDROXY-ETHYL)-IMIDAZO[1,2-A]PYRIDINE-5-CARBOXYLIC ACID (ADAMANTAN-1-YLMETHYL)-AMIDE | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CC=3N2C=C(N3)CCO | C21H27N3O2
